US06335360B1
1-[N-t-Butoxycarbonyl-2(S)-aminobutyryl]-5-benzyloxyindoline-2(R/S)-carboxylic acid butyl amide
This compound was prepared from 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2-(R/S)-carboxylic acid and butyl amine as described in Example 6.

reactant | 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2-(R/S)-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1C(CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)O)CC | C25H30N2O6
reactant | butyl amine | C(CCC)N | C4H11N
product | 1-[N-t-Butoxycarbonyl-2(S)-aminobutyryl]-5-benzyloxyindoline-2(R/S)-carboxylic acid butyl amide | C(CCC)NC(=O)C1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C29H39N3O5
